datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24])[H:8])([H:6])[H:7],49.2875
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:19][O:27][O:28][H:29],62.751632
[C:0]([O:1][O:2][H:5])([H:3])[H:4]>>[C:0](=[O:1])([H:3])[H:4].[O:2][H:5],6.276
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:11])[O:5]1.[O:6][H:17],74.0568
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[S:9][H:10]>>[C:0]([H:3])([H:4])[H:5].[S:1]([C:2]([H:6])([H:7])[H:8])[S:9][H:10],53.9736
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[O:8][H:9]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8][H:9],25.104
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28])[H:14])([H:12])[H:13],43.5136
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])[H:6],15.69
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:10])([H:16])[H:17])[H:12])[H:11])([H:7])([H:8])[H:9],76.1488
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[S:9][S:10][H:11]>>[C:0]([H:3])([H:4])[H:5].[S:1]([C:2]([H:6])([H:7])[H:8])[S:9][S:10][H:11],107.11
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:7],-0.87864
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:33])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:31])[H:32])[H:33])([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:14])([H:12])[H:13],47.2374
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:11])[H:10]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])=[C:3]([H:13])[C:4]2=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])[C:9]12[H:18],20.0832
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]([S:10][H:12])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:11])([H:4])[H:5].[S:9][S:10][H:12],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:6],35.4385
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][O:24][O:25],199.11656
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[H:7]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][H:7],0.0
